US07576204B2
(8E,12E,14E)-7-acetoxy-21-benzoyloxy-6-(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide
(8E,12E,14E)-7-acetoxy-21-benzoyloxy-6-hydroxy-6,10,12,16,20-pentamethyl-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide (95.6 mg, 127 μmol) was dissolved in methylene chloride (2 mL). Ethyl vinyl ether (200 μL, 2.09 μmol) and pyridinium p-toluenesulfonate (3.2 mg, 12.7 μmol) were added to the solution at room temperature, and the reaction solution was stirred at the same temperature for 14.5 hours. Ethyl vinyl ether (200 μl, 2.09 μmol) and pyridinium p-toluenesulfonate (2.5 mg, 9.9 μmol) were further added to the reaction solution at room temperature, and the reaction solution was stirred at the same temperature for 7.5 hours. The reaction solution was diluted with ethyl acetate (30 mL), and the dilution was washed with purified water (6 mL) twice and brine (6 mL). The resulting organic layer was dried over sodium sulfate, and then filtered. The filtrate was concentrated. The concentrate was purified by silica gel column chromatography (MERCK Silica gel 60, 63 to 200 μm; hexane:ethyl acetate=5:1) to obtain the title compound (89.1 mg, 108 μmol, 85.1%) as a colorless oil.

reactant | (8E,12E,14E)-7-acetoxy-21-benzoyloxy-6-hydroxy-6,10,12,16,20-pentamethyl-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 127 μmol, 95.6 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C2=CC=CC=C2)=O)C)O1)C)\C)O[Si](CC)(CC)CC)(C)O | C43H66O9Si
reactant | pyridinium p-toluenesulfonate | 12.7 μmol, 3.2 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Ethyl vinyl ether | 2.09 μmol, 200 μL | C(=C)OCC | C4H8O
catalyst | Ethyl vinyl ether | 2.09 μmol, 200 μl | C(=C)OCC | C4H8O
catalyst | pyridinium p-toluenesulfonate | 9.9 μmol, 2.5 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | (8E,12E,14E)-7-acetoxy-21-benzoyloxy-6-(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 108 μmol, 89.1 mg, 85.1% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C2=CC=CC=C2)=O)C)O1)C)\C)O[Si](CC)(CC)CC)(C)OC(C)OCC | C47H74O10Si
